US07691850B2
(b) (1R)-2-[(3S)-3-(aminomethyl)-1-pyrrolidinyl]-1-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethanol
To a solution of phenylmethyl[((3S)-1-{(2R)-2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-2-hydroxyethyl}-3-pyrrolidinyl)methyl]carbamate (250 mg, 0.55 mmol) in EtOH (5 mL) was added Pd(OH)2 (20 mg). The suspension was hydrogenated at 1 atm of H2 using a balloon. After 12 h, the mixture was filtered and washed several times with MeOH. The filtrate was concentrated to afford the title compound (175 mg, 100%) as an off-white foam, which was used without further purification: LC/MS (ES) m/e 321 (M+H)+.

reactant | phenylmethyl[((3S)-1-{(2R)-2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-2-hydroxyethyl}-3-pyrrolidinyl)methyl]carbamate | 0.55 mmol, 250 mg | C1(=CC=CC=C1)COC(NC[C@H]1CN(CC1)C[C@H](O)C1=C(C=NC2=CC=C(N=C12)OC)F)=O | C24H27FN4O4
solvent | EtOH | 5 mL | CCO | C2H6O
catalyst | Pd(OH)2 | 20 mg | [OH-].[OH-].[Pd+2]
product | (1R)-2-[(3S)-3-(aminomethyl)-1-pyrrolidinyl]-1-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethanol | 175 mg, 100% | NC[C@H]1CN(CC1)C[C@H](O)C1=C(C=NC2=CC=C(N=C12)OC)F | C16H21FN4O2
